US07405215B2
a.) 1,1-Dioxo-2,3-dihydro-1H-1λ6-benzo[e][1,2,3]thiadiazin-4-one (Scheme 2)
2-Chlorosulfonyl-benzoic acid methyl ester (7.04 g, 30 mmol) was added to hydrazine hydrate (66 mmol) stirring rapidly in 300 mL ether. The reaction was stirred overnight in an open flask and allowed to slowly concentrate. The remaining solvent was concentrated and the residue was treated with HOAc (3 mL) and DCM. The solution was washed with water, dried over MgSO4, and concentrated to give 3 g of a white solid.

reactant | 2-Chlorosulfonyl-benzoic acid methyl ester | 30 mmol, 7.04 g | COC(C1=C(C=CC=C1)S(=O)(=O)Cl)=O | C8H7ClO4S
reactant | hydrazine hydrate | 66 mmol | O.NN
solvent | ether | 300 mL | CCOCC | C4H10O
product | 1,1-Dioxo-2,3-dihydro-1H-1λ6-benzo[e][1,2,3]thiadiazin-4-one | 3 g | O=S1(NNC(C2=C1C=CC=C2)=O)=O | C7H6N2O3S
